US04645844
Preparation of m-Succinimidophenoxypropyl Trimethoxysilane
A solution containing 200 g of succinic anhydride, 218 g m-aminophenol and one liter of glacial acetic acid was heated at the boiling point for 16 hours in a reactor equipped with a mechanically driven stirrer and a water-cooled reflux condenser. The reaction mixture solidified upon cooling to ambient temperature. The solid was pulverized, washed with water to remove the acetic acid, then dried. The resultant m-succinimidophenol (105.1 g, 0.55 mole) together with 43.28 g of a 50% by weight aqueous solution of sodium hydroxide, 112 cc dimethylsulfoxide and 120 cc toluene were placed in a reactor equipped with a nitrogen inlet, water-cooled reflux condenser and Dean-Stark trap. The resultant mixture was heated to the boiling point for six hours under a nitrogen atmosphere to remove all of the water present by azeotropic distillation. The reaction mixture was then allowed to cool to about 75° C., at which time 109 g (0.56 mole) of 3-chloropropyl trimethoxysilane was added dropwise while the reaction mixture was stirred. Following completion of the addition the reaction mixture was heated at 115° C. for about 16 hours, following which the mixture was allowed to cool and was filtered to remove any solid material. The solvents were then removed under a pressure of about 15 mm of mercury at a temperature of about 60° C. The pressure was then reduced to 0.5 mm of mercury and the material boiling at 228° C. was collected. Analysis by vapor phase chromatography indicated that the purity of the product, a white solid, was greater than 98%. The infrared and nuclear magnetic resonance spectra of the product were consistent with the proposed structure.

reactant | succinic anhydride | 200 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | m-aminophenol | 218 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | m-succinimidophenol | 0.55 mole, 105.1 g | C1(CCC(N1C=1C=C(C=CC1)O)=O)=O | C10H9NO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 3-chloropropyl trimethoxysilane | 0.56 mole, 109 g | ClCCC[Si](OC)(OC)OC | C6H15ClO3Si
solvent | water | O | H2O
solvent | toluene | 120 cc | C1(=CC=CC=C1)C | C7H8
solvent | dimethylsulfoxide | 112 cc | CS(=O)C | C2H6OS
solvent | acetic acid | one liter | C(C)(=O)O | C2H4O2
product | m-Succinimidophenoxypropyl Trimethoxysilane | C1(CCC(N1C=1C=C(OCCC[Si](OC)(OC)OC)C=CC1)=O)=O | C16H23NO6Si
